US08372867B2
A solution of 4-methyl-3-nitrobenzaldehyde (3.5 g) in tetrahydrofuran (50 mL) was added dropwise to a solution of hydroxylamine hydrochloride (3.0 g) and sodium acetate (4.0 g) in tetrahydrofuran (50 mL) and water (50 mL) under ice cooling, and, on completion of the dropwise addition, the mixture was stirred for one hour at room temperature. The reaction solution was diluted with water and then extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain a crude product of 4-methyl-3-nitrobenzaldehyde oxime (3.5 g).

reactant | 4-methyl-3-nitrobenzaldehyde | 3.5 g | CC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO3
reactant | hydroxylamine hydrochloride | 3.0 g | Cl.NO
reactant | sodium acetate | 4.0 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 4-methyl-3-nitrobenzaldehyde oxime | 3.5 g | CC1=C(C=C(C=NO)C=C1)[N+](=O)[O-] | C8H8N2O3
